US07629362B2
Manufacture of 5-methoxymethyl-3-mercapto-1,2,4-triazole
Methoxyacetyl chloride (2.82 g; 0.023 mol) was added to a solution (15 ml) of 2.09 g (0.0230 mol) of thiosemicarbazide in pyridine followed by stirring for a whole day and night at room temperature. The reaction solution was concentrated and 10 ml of methanol and 8 ml of a 25 wt % methanolic solution of sodium methoxide were added thereto followed by heating to reflux for a whole day and night. After cooling to room temperature, the solvent was evaporated and concentrated hydrochloric acid was added thereto to acidify. The solid separated out therefrom was filtered, washed with distilled water and dried to give 1.0 g (yield: 33%) of the title compound.

reactant | Methoxyacetyl chloride | 0.023 mol, 2.82 g | COCC(=O)Cl | C3H5ClO2
reactant | thiosemicarbazide | 0.0230 mol, 2.09 g | NNC(=S)N | CH5N3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-methoxymethyl-3-mercapto-1,2,4-triazole | 1.0 g, yield: 33% | COCC1=NC(=NN1)S | C4H7N3OS
